US04948916
9.2 Grams (0.4 moles) of metallic sodium was dissolved in 300 ml of absolute ethanol. To the resulting solution, a solution of 27 g (0.2 moles) of benzhydroxamic acid in 600 ml of absolute ethanol was added dropwise 20°-25° C. with stirring for 3 hours. Subsequently, a solution of 9.5 g (0.1 mole) of chloroacetic acid in 100 ml of absolute ethanol was added dropwise and the resulting mixture wa stirred at 50° C. for 8 hours. After cooling the mixture, water was added and the mixture was neutralized with concentrated HCl. Ethanol was distilled off under vacuum and the pH of the residue was adjusted to 1 by addition of concentrated HCl. The precipitating crystal was recovered by filtration and dried to obtain benzamidooxyacetic acid in an amount of 8.2 g (yield, 42 mol %).

reactant | sodium | 0.4 moles | [Na] | Na
reactant | benzhydroxamic acid | 0.2 moles, 27 g | C(C1=CC=CC=C1)(=O)NO | C7H7NO2
reactant | chloroacetic acid | 0.1 mole, 9.5 g | ClCC(=O)O | C2H3ClO2
reactant | HCl | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | benzamidooxyacetic acid | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
